US07122546B2
Step 8. Preparation of 6-chloro-3-[2-(3-chloro-2,6-difluoro-phenyl)-imidazol-1-ylmethyl]-4-methoxy-pyridazine 10
To a stirred solution of 6-chloro-3-chloromethyl-4-methoxy-pyridazine (58 mg, 0.3 mmol) and 2-(3-chloro-2,6-difluoro-phenyl)-imidazole (65 mg, 0.3 mmol) in DMF (6 mL) is added NaH (60% suspension in mineral oil, 14 mg). The mixture is stirred at room temperature overnight. The solvent is removed in vacuo and water (5 mL) and EtOAc (8 mL) is added. The layers are separated and the aqueous layer is extracted with EtOAc (8 mL). The combined extracts is washed with brine (8 mL) and dried (Na2SO4) and evaporated. Preparative TLC purification (5% MeOH in CH2Cl2) of the residue provides the title compound as a light yellow oil. H1 NMR δ (CDCl3) 7.48–7.56 (m, 1H), 7.15–7.20 (m, 2H), 7.02 (t, 1H, J=8.4 Hz), 6.87 (s, 1H), 5.27 (s, 2H), 3.764 (s, 3H).

reactant | 6-chloro-3-chloromethyl-4-methoxy-pyridazine | 0.3 mmol, 58 mg | ClC1=CC(=C(N=N1)CCl)OC | C6H6Cl2N2O
reactant | 2-(3-chloro-2,6-difluoro-phenyl)-imidazole | 0.3 mmol, 65 mg | ClC=1C(=C(C(=CC1)F)C=1NC=CN1)F | C9H5ClF2N2
reactant | NaH | 14 mg | [H-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-chloro-3-[2-(3-chloro-2,6-difluoro-phenyl)-imidazol-1-ylmethyl]-4-methoxy-pyridazine | ClC1=CC(=C(N=N1)CN1C(=NC=C1)C1=C(C(=CC=C1F)Cl)F)OC | C15H10Cl2F2N4O
